US06713499B2
4-Fluoro-N-[4-methoxy-7-(methyl-pyridin-2-ylmethyl-amino)-benzothiazol-2-yl]-benzamide
From 4-methoxy-N7-methyl-benzothiazole-2,7-diamine with potassium carbonate and 2-(bromomethyl)pyridine hydrobromide in DMF, then treatment with 4-fluoro-benzoic acid, HATU and N-ethyldiisopropylamine in THF. ES-MS m/e (%): 423 (M+H+, 100).

reactant | 4-methoxy-N7-methyl-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)NC | C9H11N3OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)pyridine hydrobromide | Br.BrCC1=NC=CC=C1
reactant | 4-fluoro-benzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-Fluoro-N-[4-methoxy-7-(methyl-pyridin-2-ylmethyl-amino)-benzothiazol-2-yl]-benzamide | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(CC3=NC=CC=C3)C)OC)C=C1 | C22H19FN4O2S
